US07723367B2
2-(4-fluoro-2-methoxyphenyl)nicotinonitrile
Prepared in 85% yield from 2-chloronicotinonitrile and 2-fluoro-6-methoxyphenylboronic acid according to the procedure described for Example 153A. MS (ESI−) m/z 228.9 (M+H)+; 1H NMR (CDCl3) δ 6.82-6.88 (m, 2H), 7.38-7.46 (m, 2H), 8.07 (dd, J=7.8, 1.7 Hz, 1H), 8.91 (dd, J=4.9, 1.9 Hz, 1H).

reactant | 2-chloronicotinonitrile | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
reactant | 2-fluoro-6-methoxyphenylboronic acid | FC1=C(C(=CC=C1)OC)B(O)O | C7H8BFO3
product | 2-(4-fluoro-2-methoxyphenyl)nicotinonitrile | 85% yield | FC1=CC(=C(C=C1)C1=C(C#N)C=CC=N1)OC | C13H9FN2O
